US05306827
Preparation of 3-Bromo-5-(p-chlorophenyl)-4-[(trifluoromethyl)sulfonyl]-2-[(trifluoromethyl)thio]pyrrole
A solution of 2-(p-chlorophenyl)-3-[(trifluoromethyl)sulfonyl]-5-[(trifluoromethyl)thio]pyrrole (0.5 g, 0.00122 mol) in chloroform (10 mL) is cooled with an ice bath, treated with a solution of bromine (0.21 g, 0.00134 mol) in chloroform (5 mL), stirred for two hours, warmed to room temperature, treated with two drops of additional bromine and stirred for one hour. The reaction mixture is diluted with methylene chloride, washed with water, saturated sodium hydrogen carbonate solution, saturated sodium metabisulfite solution and brine, dried over anhydrous magnesium sulfate and concentrated in vacuo to obtain a syrup. Flash chromatography of the syrup using silica gel and a 1:5 ethyl acetate/hexanes solution gives the title product as a white solid (0.25 g, mp 122°-125° C.) which is identified by 1HNMR and 13CNMR spectral analyses.

reactant | 2-(p-chlorophenyl)-3-[(trifluoromethyl)sulfonyl]-5-[(trifluoromethyl)thio]pyrrole | 0.00122 mol, 0.5 g | ClC1=CC=C(C=C1)C=1NC(=CC1S(=O)(=O)C(F)(F)F)SC(F)(F)F | C12H6ClF6NO2S2
reactant | bromine | 0.00134 mol, 0.21 g | BrBr | Br2
solvent | chloroform | 10 mL | C(Cl)(Cl)Cl | CHCl3
solvent | chloroform | 5 mL | C(Cl)(Cl)Cl | CHCl3
catalyst | bromine | two drops | BrBr | Br2
solvent | methylene chloride | C(Cl)Cl | CH2Cl2
product | 3-Bromo-5-(p-chlorophenyl)-4-[(trifluoromethyl)sulfonyl]-2-[(trifluoromethyl)thio]pyrrole | 0.25 g | BrC1=C(NC(=C1S(=O)(=O)C(F)(F)F)C1=CC=C(C=C1)Cl)SC(F)(F)F | C12H5BrClF6NO2S2
